US07262212B2
4-Bromobenzotrifluoride (1 g, 4.44 mmol) was dissolved in THF (15 ml), to which n-butyllithium (1.5 M) hexane solution (3.1 ml, 4.67 mmol) was added dropwise at −70° C. Then a solution of 1-benzyl-4-piperidone in THF (15 ml) was added dropwise to the mixture, and the resulting mixture was stirred for 2 hours and then at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, washed with water and brine, and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/acetone=2/1) to afford 1-benzyl-4-(4-trifluoromethylphenyl)piperidin-4-ol (692 mg, yield 46%) as a colorless crystalline powder.

reactant | 4-Bromobenzotrifluoride | 4.44 mmol, 1 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | n-butyllithium | 4.67 mmol, 1.5 M, 3.1 ml | C(CCC)[Li]
reactant | 1-benzyl-4-piperidone | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-4-(4-trifluoromethylphenyl)piperidin-4-ol | 692 mg, yield 46% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)C(F)(F)F | C19H20F3NO
